US06093718
The crude 1-(4-chlorophenylsulphonyl)-4-(piperazin-4-ylcarbonyl)piperidine hydrochloride, 2-methyl-4-chloro-pyrimidine (299 mg) and triethylamine (1.47 ml) were heated under reflux in ethanol (12 ml) for 5 hours. The solvent was removed by evaporation. Purification by filtration column chromatography (silica) eluting with 2% methanol/dichloromethane increasing to 10% methanol/dichloromethane gave 1-(4-chlorophenylsulphonyl)-4-[1-(2-methylpyrimidin-4-yl)piperazin-4-ylcarbonyl]piperidine as a solid (0.87 g); NMR (CDCl3): 1.7-2.0 (m, 5H), 2.5 (m, 5H), 3.5-3.8 (m, 10H), 6.3 (m, 1H), 7.5 (m, 2H), 7.7 (m, 2H), 8.2 (m, 1H).

reactant | 1-(4-chlorophenylsulphonyl)-4-(piperazin-4-ylcarbonyl)piperidine hydrochloride | Cl.ClC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C(=O)N1CCNCC1
reactant | 2-methyl-4-chloro-pyrimidine | 299 mg | CC1=NC=CC(=N1)Cl | C5H5ClN2
reactant | triethylamine | 1.47 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 1-(4-chlorophenylsulphonyl)-4-[1-(2-methylpyrimidin-4-yl)piperazin-4-ylcarbonyl]piperidine | 0.87 g | ClC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C(=O)N1CCN(CC1)C1=NC(=NC=C1)C | C21H26ClN5O3S
